US05635510
63.1 Synthesis of 4-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzyl)-4-[3-(tetrahydro-pyran-2-yloxy)-propyl]-pyrrolidin-2-one
Prepare according to the procedure of example 11.4 using 4-(3,4-dichloro-phenyl)-4-[3-(tetrahydro-pyran-2-yloxy)-propyl]-pyrrolidin-2-one (2.79 mmol) and 3,4,5-trimethoxy-benzyl bromide (5.9 mmol). Chromatograph on silica gel to give the title compound.

reactant | 4-(3,4-dichloro-phenyl)-4-[3-(tetrahydro-pyran-2-yloxy)-propyl]-pyrrolidin-2-one | 2.79 mmol | ClC=1C=C(C=CC1Cl)C1(CC(NC1)=O)CCCOC1OCCCC1 | C18H23Cl2NO3
reactant | 3,4,5-trimethoxy-benzyl bromide | 5.9 mmol | COC=1C=C(CBr)C=C(C1OC)OC | C10H13BrO3
product | 4-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzyl)-4-[3-(tetrahydro-pyran-2-yloxy)-propyl]-pyrrolidin-2-one | ClC=1C=C(C=CC1Cl)C1(CC(N(C1)CC1=CC(=C(C(=C1)OC)OC)OC)=O)CCCOC1OCCCC1 | C28H35Cl2NO6
